US06458781B1
Step A. (S)-2-Cyclohexylamino-3-methyl-butyric acid
A mixture of L-valine (29.29 g, 250 mmol), and cyclohexanone (51.8 mL, 500 mmol, Aldrich Inc, Milwaukee, Wis.) was agitated in an atmosphere of hydrogen (pressure, 23.4-51.1 psi) at room temperature in 370 mL ethanol in the presence of Pd/C (20%, 3 g) until the absorption of hydrogen had ceased. The mixture was filtered, and this ethanolic filtrate was set aside, then the filter cake washed with 450 mL 1 M HCl. The ethanolic filtrate was concentrated to dryness and the residue dissolved in the aqueous filtrate above, which was treated with concentrated aqueous sodium hydroxide (29.8%) to adjust the pH to 5.5. The white solid precipitated out which was isolated via filtration, washed with two 150 mL portions of ethanol and dried under vacuum to give 37.4 g (70%) of the pure titled compound as a white solid; mp >300° C. APCI-MS m/z 200.2 (MH+).

reactant | L-valine | 250 mmol, 29.29 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | cyclohexanone | 500 mmol, 51.8 mL | C1(CCCCC1)=O | C6H10O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 370 mL | C(C)O | C2H6O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | (S)-2-Cyclohexylamino-3-methyl-butyric acid | 37.4 g, 70% | C1(CCCCC1)N[C@H](C(=O)O)C(C)C | C11H21NO2
